US09023847B2
A solution of 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-benzylamino-ethyl)-amide (95 mg, 0.24 mmol), diisopropylethylamine (84 uL, 0.49 mmol) and acetyl chloride (25 uL, 0.37 mmol) in tetrahydrofuran (2.0 mL) was stirred at room temperature for 18 h. The solution was concentrated in vacuo then purified by ISCO Companion (silica, 10% methanol, methylene chloride, 1% ammonium hydroxide) to afford 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(acetyl-benzyl-amino)-ethyl]-amide (25 mg, 24%). LCMS (ESI) 434 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.56 (1H, br. s.) 10.16-10.43 (1H, m) 8.15 (0H, t, J=5.00 Hz) 8.02 (1H, t, J=2.71 Hz) 7.72-7.86 (1H, m) 7.44-7.54 (1H, m) 7.13-7.39 (6H, m) 6.83 (1H, dd, J=12.23, 5.49 Hz) 6.36-6.50 (1H, m) 4.49-4.61 (2H, m) 3.34-3.50 (4H, m) 1.91-2.19 (3H, m)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-benzylamino-ethyl)-amide | 0.24 mmol, 95 mg | C(C1=CC=CC=C1)NCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H21N5OS
reactant | diisopropylethylamine | 0.49 mmol, 84 uL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetyl chloride | 0.37 mmol, 25 uL | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(acetyl-benzyl-amino)-ethyl]-amide | 25 mg, 24% | C(C)(=O)N(CCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2)CC2=CC=CC=C2 | C23H23N5O2S
